US04339443
Sodium methyl(1-phenyliminoethyl)phosphinate
A mixture of sodium acetylmethylphosphinate (4.3 g) and aniline (3.2 ml) was dissolved in ethanol (200 ml) and allowed to stand for 72 hours over 4 A molecular sieve. The solution was filtered free of the solid phase, evaporated in vacuo and the residue was triturated with ether to give a pale brown solid (6.1 g). The nmr spectrum showed that the crude product contained an aromatic moiety.

reactant | sodium acetylmethylphosphinate | 4.3 g | C(C)(=O)CP([O-])=O.[Na+]
reactant | aniline | 3.2 ml | NC1=CC=CC=C1 | C6H7N
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | Sodium methyl(1-phenyliminoethyl)phosphinate | 6.1 g | CP([O-])(=O)C(C)=NC1=CC=CC=C1.[Na+] | InChI=1S/C9H12NO2P.Na/c1-8(13(2,11)12)10-9-6-4-3-5-7-9;/h3-7H,1-2H3,(H,11,12);/q;+1/p-1
